US05969132
A solution of N-tert-butoxycarbonyl-O-benzyl-D-valinol (9.95 g, 34 mmol) in formic acid (50 mL) is stirred for 4 hours at room temperature. After removal of the formic acid under vacuum, the sticky residue is dissolved in water (100 mL), neutralized with a saturated solution of sodium bicarbonate (100 mL) and the organic material is extracted twice with ethyl acetate (2×200 mL). The organic phases are washed until neutral with water (2×200 mL) and the combined organic layers are dried over anhydrous sodium sulfate. Filtration and concentration under vacuum provides O-benzyl-D-valinol as a slightly yellowish oil (5.20 g, 79%).

reactant | N-tert-butoxycarbonyl-O-benzyl-D-valinol | 34 mmol, 9.95 g | C(C)(C)(C)OC(=O)N[C@H](C(C)C)COCC1=CC=CC=C1 | C17H27NO3
solvent | formic acid | 50 mL | C(=O)O | CH2O2
product | O-benzyl-D-valinol | C(C1=CC=CC=C1)OC[C@H](N)C(C)C | C12H19NO
